US08048887B2
Methyl 3-(benzyloxy)-5-hydroxy-4-methylbenzoate
Methyl 3,5-dihydroxy-4-methylbenzoate (3.5 g, 19.22 mmol, 1.0 eq) was dissolved in 300 ml of DMF. To this solution potassium carbonate (2.52 g, 18.26 mmol, 0.95 eq) was added. To this stirred suspension, benzyl bromide (3.12 g, 18.26 mmol, 0.95 eq) (diluted with 50 ml of DMF) was added dropwise over a period of 3 h. The solution was stirred overnight at ambient temperature. Then DMF was evaporated under reduced pressure. The residue was washed with water and the product was extracted thrice with DCM. The combined DCM layers was dried over sodium sulphate and evaporated under vacuum. The required product was purified by silica gel (240-400) column chromatography using 10% ethyl acetate/hexane as the eluent. Yield: 1.6 g (30%). 1H NMR (400 MHz, DMSO-d6): δ 2.07 (s, 3H), 3.81 (s, 3H), 5.14 (s, 2H), 7.08 (s, 1H), 7.14 (s, 1H), 7.33-7.35 (d, 1H, J=7.04 Hz), 7.39-7.42 (t, 2H, J=7.40 Hz), 7.46-7.48 (d, 2H, J=7.48 Hz), 9.78 (s, 1H).

reactant | Methyl 3,5-dihydroxy-4-methylbenzoate | 19.22 mmol, 3.5 g, 1.0 eq | OC=1C=C(C(=O)OC)C=C(C1C)O | C9H10O4
reactant | potassium carbonate | 18.26 mmol, 2.52 g, 0.95 eq | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 18.26 mmol, 50 ml, 3.12 g, 0.95 eq | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | Methyl 3-(benzyloxy)-5-hydroxy-4-methylbenzoate | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=C(C1C)O | C16H16O4
